US07153878B2
(4-{1-[4-[2-(2-Chloro-6-fluoro-phenyl)-ethyl]-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethylsulfan yl}-2-methyl-phenoxy)-acetic acid
(4-{1-[4-[2-(2-Chloro-6-fluoro-phenyl)-ethyl]-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethylsulfan yl}-2-methyl-phenoxy)-acetic acid ethyl ester (30 mg) is taken into THF (0.5 mL and treated with LiOH (1.0 N, 0.5 mL for 2 hrs. The reaction mixture is acidified with 5 N HCl, extracted with ethyl ether, dried over sodium sulfate. Concentration gave the title compound. MS (ES): 610.1 (M++1, 35Cl), 612.1 (M++1, 37Cl), the structure is also confirmed by proton NMR.

reactant | (4-{1-[4-[2-(2-Chloro-6-fluoro-phenyl)-ethyl]-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethylsulfan yl}-2-methyl-phenoxy)-acetic acid ethyl ester | 30 mg | C(C)OC(COC1=C(C=C(C=C1)SC(C)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CCC1=C(C=CC=C1F)Cl)C)=O | C31H28ClF4NO3S2
reactant | LiOH | [Li+].[OH-]
reactant | HCl | 5 N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | (4-{1-[4-[2-(2-Chloro-6-fluoro-phenyl)-ethyl]-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethylsulfan yl}-2-methyl-phenoxy)-acetic acid | ClC1=C(C(=CC=C1)F)CCC=1N=C(SC1C(C)SC1=CC(=C(OCC(=O)O)C=C1)C)C1=CC=C(C=C1)C(F)(F)F | C29H24ClF4NO3S2
